2124-04-11 12:45:00 Physician Attending Progress Note
Chief Complaint: hypoxia and hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo M w/ mmp,  C4-5 paraplegia, TF dependence, on broad spectrum abx
   for recent pna transferred from OSH w/ resp distress, leukocytosis, and
   HOTN
   24 Hour Events:
   uneventful overnight
   no complaints
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Methyldopa
   hives;
   Shellfish
   pt. with remote
   Last dose of Antibiotics:
   Cefipime - [**2124-4-9**] 03:00 PM
   Meropenem - [**2124-4-10**] 08:37 AM
   Metronidazole - [**2124-4-11**] 04:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-4-11**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 67 (62 - 76) bpm
   BP: 144/51(81) {89/30(50) - 144/51(81)} mmHg
   RR: 22 (6 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 76 Inch
             Total In:
                                                                    876 mL
                                                                    748 mL
   PO:
             TF:
                                                                     76 mL
                                                                    413 mL
   IVF:
                                                                    640 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    876 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.38/40/138/21/0
   PaO2 / FiO2: 394
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), paced
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   371 K/uL
   115 mg/dL
   3.5 mg/dL
   21 mEq/L
   3.3 mEq/L
   79 mg/dL
   102 mEq/L
   134 mEq/L
   24.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2124-4-9**]  06:50 PM
                             [**2124-4-9**]  06:58 PM
                             [**2124-4-10**]  02:57 AM
                             [**2124-4-11**]  03:44 AM
                             [**2124-4-11**]  03:57 AM
   WBC
   16.5
   12.7
   9.0
   Hct
   23.6
   23.3
   24.7
   Plt
   [**Telephone/Fax (3) 2690**]
   Cr
   2.8
   2.9
   3.5
   TCO2
   27
   25
   Glucose
   51
   51
   115
   Other labs: PT / PTT / INR:52.7/46.0/6.1 (3.2->4.1),
   Differential-Neuts:70.0 %, Band:1.0 %, Lymph:12.0 %, Mono:15.0 %,
   Eos:0.0 %, Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:7.0 mg/dL
   Imaging: cxr--rotated and L base cut off
   appears to be smaller volumes, full hilar vessels
   Microbiology: no new data
   Assessment and Plan
   73 yo M w/ mmp,  C4-5 paraplegia, TF dependence, on broad spectrum abx
   for recent pna transferred from OSH w/ resp distress, leukocytosis, and
   HOTN
   Main issues remain:
    # Resp distress/pna/mucus plug

resolved, at baseline status
   suspect a recurrent asp pna/pneumonitis vs mucus plugging  vs.
   nonresolving pna- ?resistant organism or  ?empyema
   bronched on last hospitalization for persistent LLL collapse, no
   endobronchial lesions and cx only op flora.
   -complete 10 day course of broadened coverage of Vanco/[**Last Name (un) **]
   -  chest PT, NEBS
   - can hold on chest ct given overall improvement of LLL on cxr and
   clinical imrpovement.
   - wean O2, sats 100%
   - Aspiration precautions with HOB elevated
   #  Hypotension
 Concern for early sepsis given leukocytosis, now
   improved after IVF boluses,  remains normotensive
   Note--A-line higher than cuff pressure [**Location (un) 308**]
   #  Leukocytosis
 now normalized on antibx
   continue empiric antibx as above +  c diff coverage with flagyl pending
   negative cx X 3
   # Stage IV decub on coccyx - probes to bone but  prior xrays reportedly
   w/o evidence of osteo.
   Cont accuzyme, wound care consult.
   # ESRD on HD
   for HD today (t Th F)
    # IDDM
 restart  lantus as TF restarted
                   RSSI
    # anemia
h/h at baseline, epo with HD
   # Afib/AC
 holding coumadin given supratherapeutic INR (suspect from
   antibx and nutrition (held TFs), monitor
   Resume BB in setting after HD as bp tolerates
   # CAD
 cont asa and statin, BB as above
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  rsi
   Lines:
   PICC Line - [**2124-4-9**] 04:24 PM
   Arterial Line - [**2124-4-9**] 07:00 PM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : evaluating for transfer to nursing facility, stable for
   floor transfer
   Total time spent:  40